US09353075B2
Step 5. Preparation of 5-phenylpentyl-N-[(2S*,3R*)-2-isopropyl-4-oxo-oxetan-3-yl]-carbamate
Under nitrogen atmosphere, to a stirred mixture of (2S*,3R*)-3-hydroxy-4-methyl-2-(5-phenylpentoxy-carbonylamino)-pentanoic acid (0.14 g, 0.43 mmol) in dry CH2Cl2 (20 mL), at 0° C., Et3N (0.18 mL, 1.3 mmol) and subsequently TBTU (0.17 g, 0.55 mmol) were added. The mixture was left stirring at 0° C. for 1 h and at rt for 15 h. The organics were then removed under reduced pressure, and the resulting crude product purified by column chromatography, using a Teledyne ISCO apparatus, eluting with Cy:AcOEt (from 100:0 to 80:20) to afford the pure title compound (0.052 g, 40%), as pure syn diastereoisomer, as a white solid. MS (ESI) m/z: 337 [M−NH4]+; (ESI) m/z: 318 [M−H]−. 1H NMR (DMSO-d6) δ 0.75 (d, J=6.57 Hz, 3H), 0.96 (d, J=6.51 Hz, 3H), 1.25-1.39 (m, 2H), 1.52-1.65 (m, 4H), 2.03 (dt, J=6.53, 10.83 Hz, 1H), 2.57 (t, J=7.67 Hz, 2H), 4.01 (t, J=6.58 Hz, 2H), 4.24 (dd, J=5.92, 10.84 Hz, 1H), 5.44 (dd, J=5.92, 9.53 Hz, 1H), 7.13-7.34 (m, 5H), 8.27 (d, J=9.52 Hz, 1H).

reactant | (2S*,3R*)-3-hydroxy-4-methyl-2-(5-phenylpentoxy-carbonylamino)-pentanoic acid | 0.43 mmol, 0.14 g | O[C@@H]([C@@H](C(=O)O)NC(=O)OCCCCCC1=CC=CC=C1)C(C)C | C18H27NO5
reactant | Et3N | 1.3 mmol, 0.18 mL | CCN(CC)CC | C6H15N
reactant | TBTU | 0.55 mmol, 0.17 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-phenylpentyl-N-[(2S*,3R*)-2-isopropyl-4-oxo-oxetan-3-yl]-carbamate | 0.052 g, 40% | C1(=CC=CC=C1)CCCCCOC(N[C@@H]1[C@@H](OC1=O)C(C)C)=O | C18H25NO4
